US08912200B2
Step 2: (4-Methylpiperazin-1-yl){3-[(trimethylsilyl)ethynyl]phenyl}methanone
(3-Iodophenyl)(4-methylpiperazin-1-yl)methanone (1.15 g, 3.5 mmol) and ethynyl-trimethyl-silane (0.58 mL, 4.2 mmol) in dry acetonitrile (30 mL) were purged with nitrogen and treated with TEA (0.97 mL, 7.0 mmol, 2 eq.), CuI (0.033 g, 0.17 mmol) and Pd (Ph3P)2Cl2 (0.120 g, 0.17 mmol). The reaction was stirred at room temperature for 2 h, then was diluted with EtOAc (30 mL), washed with water (2×20 mL), brine, dried over sodium sulphate, and evaporated. The crude was purified by flash chromatography on silica gel (DCM/MeOH 95/5) to afford the title compound (0.95 g, 91%).

reactant | (3-Iodophenyl)(4-methylpiperazin-1-yl)methanone | 3.5 mmol, 1.15 g | IC=1C=C(C=CC1)C(=O)N1CCN(CC1)C | C12H15IN2O
reactant | ethynyl-trimethyl-silane | 4.2 mmol, 0.58 mL | C(#C)[Si](C)(C)C | C5H10Si
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.17 mmol, 0.033 g | [Cu]I
product | (4-Methylpiperazin-1-yl){3-[(trimethylsilyl)ethynyl]phenyl}methanone | 0.95 g, 91% | CN1CCN(CC1)C(=O)C1=CC(=CC=C1)C#C[Si](C)(C)C | C17H24N2OSi
